US04389403
5.5 g (44.7 millimoles) of nicotinic acid are dissolved in 800 ml of absolute tetrahydrofuran, 7.3 g (45 millimoles) of N,N'-carbonyldiimidazole are added and the mixture is stirred for 45 minutes at room temperature. A solution of 10.3 g (44.7 millimoles) of 2-(2',6'-dichlorophenylamino)-2-imidazoline in 200 ml of absolute tetrahydrofuran is then added dropwise, with continued stirring, and the mixture is left to stand overnight at room temperature. Thereafter, the reaction solution is freed from solvent on a rotary evaporator, 200 ml of an 0.5% strength sodium bicarbonate solution are added to the residue, and the product which precipitates is filtered off and washed with water. After drying, the crude product is recrystallized from isopropanol. 7.2 g of 1-nicotinoyl-2-(2',6'-dichlorophenylamino)-2-imidazoline, melting point 173°-174° C., are obtained.

reactant | nicotinic acid | 44.7 millimoles, 5.5 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | 2-(2',6'-dichlorophenylamino)-2-imidazoline | 44.7 millimoles, 10.3 g | ClC1=C(C(=CC=C1)Cl)NC=1NCCN1 | C9H9Cl2N3
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-nicotinoyl-2-(2',6'-dichlorophenylamino)-2-imidazoline | 7.2 g | C(C1=CN=CC=C1)(=O)N1C(=NCC1)NC1=C(C=CC=C1Cl)Cl | C15H12Cl2N4O
